US06458830B1
N-Butoxycarbonyl-4-piperidinecarboxylic acid (4.6 g) was dissolved in dimethylformamide (20 ml) and placed under an atmosphere of nitrogen. Benzyl bromide (2.9 ml) and potassium carbonate (8.3 g) were added and heated at 60° C. for 3 h. The dimethylformamide was removed in vacuo and azeotroped with toluene (three times). The residue was dispersed between ethyl acetate and water and the aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic phases were washed with brine and dried (MgSO4). The solution was filtered, evaporated to dryness and the residue was purified by chromatography on silica gel (eluting with isohexane containing increasing concentrations amounts of ethyl acetate 5-30%) to give benzyl N-butoxycarbonylpiperidine-4-carboxylate as a clear oil (7.68 g).

reactant | N-Butoxycarbonyl-4-piperidinecarboxylic acid | 4.6 g | C(CCC)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | Benzyl bromide | 2.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzyl N-butoxycarbonylpiperidine-4-carboxylate | 7.68 g | C(CCC)OC(=O)N1CCC(CC1)C(=O)OCC1=CC=CC=C1 | C18H25NO4
